US07468375B2
Step 3: Methyl 1H-pyrrolo[2,3-c]pyridine-5-carboxylate.
To a 500 mL Parr bottle was added methyl 4-[(E)-2-(dimethylamino)vinyl]-5-nitropyridine-2-carboxylate (18.9 g, 75.2 mmol) and anhydrous methanol (200 mL). The mixture was purged with nitrogen gas for 10 min. To this suspension was added Pd(10%)/C (1.90 g, 10 w/w %), and the suspension was degassed for 5 more minutes. The hydrogenation began with 43 psi H2 without heating. The reaction became exothermic as indicated by the rising temperature (about 2-3° C. per min) inside the Parr bottle (monitored by a thermal coupling thermometer). As the temperature inside of the reaction reached 45° C., the hydrogen gas flow into the Parr bottle was stopped, and the mixture was allowed to cool down to 25° C. for 30 min. The color of the liquid of the suspension changed from purple red to light green and then colorless in the first hour of the reduction, and about 30 psi H2 was consumed. The hydrogen pressure was brought to 50 psi, and the hydrogenation was continued at 50° C. for 20 h. There was no more hydrogen gas consumed in the last 20 h. After cooling the reaction mixture to 20° C., the solid mixture, which contained Pd(10%)/C and product, was filtered. The solid mixture was suspended in DMSO (200 mL), and the suspension was heated on a hot plate to 80° C. internal temperature with stirring for 10 min. The hot suspension was filtered and the Pd(10%)/C solid was washed with a small portion of DMSO (50 mL). The DMSO filtrate and washing were combined and poured into water (600 mL). Off white solid product precipitated out, and the suspension was stirred for 1 h before filtering, and lyophilizing. The title compound was obtained as an off-white solid product was obtained (11.3 g, >95% pure, 86% yield). 1H NMR (300 MHz, DMSO-d6) δ ppm 3.84 (s, 3H) 6.68 (d, J=2.8 Hz, 1H) 7.73 (d, J=3.0 Hz, 1H) 8.36 (s, 1H) 8.80 (s, 1H) 11.99 (s, 1H). LCMS: (APCI, M-H—)=175

reactant | methyl 4-[(E)-2-(dimethylamino)vinyl]-5-nitropyridine-2-carboxylate | 75.2 mmol, 18.9 g | CN(/C=C/C1=CC(=NC=C1[N+](=O)[O-])C(=O)OC)C | C11H13N3O4
solvent | methanol | 200 mL | CO | CH4O
product | Methyl 1H-pyrrolo[2,3-c]pyridine-5-carboxylate | 86% yield | N1C=CC=2C1=CN=C(C2)C(=O)OC | C9H8N2O2
